US08378106B2
A jacketed glass reactor was fed with 100 ml of water and brought to 80° C.; 0.8 g of argatroban monohydrate was added at this temperature. The mass was maintained under stirring for 10 minutes at this temperature then the un-dissolved residue was removed by filtration. The mother liquors were quickly cooled to 15° C. (in about 2 minutes) and maintained at this temperature for 1 hour. The obtained solid was separated by filtration and dried at 80° C. at atmospheric pressure for 10 hours in a nitrogen flow, giving 0.5 g of argatroban anhydrous (HPLC purity=99.9%; isomer ratio=60.6:39.4; KF=0.26%). Yield 65%.

reactant | argatroban monohydrate | 0.8 g | C[C@@H]1CCN([C@H](C1)C(=O)O)C(=O)[C@H](CCCN=C(N)N)NS(=O)(=O)C2=CC=CC3=C2NCC(C3)C.O
solvent | water | 100 ml | O | H2O
product | argatroban anhydrous | 0.5 g, 0.26% | C[C@@H]1CCN([C@H](C1)C(=O)O)C(=O)[C@H](CCCN=C(N)N)NS(=O)(=O)C2=CC=CC3=C2NCC(C3)C | C23H36N6O5S
